US06610707B1
Thionyl chloride (5 ml) was added to a solution of 1-[(benzyloxy)carbonyl]-3-pyrrolidinylmethanesulfonic acid (600 mg) [Preparation 57] in dimethylformamide (50 ml). The reaction mixture was heated to reflux for 20 mins after which time the cooled mixture was evaporated to dryness. The residue was partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure to afford benzyl 3-(chlorosulfonylmethyl)-1-pyrrolidinecarboxylate (560 mg) as an oil.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[(benzyloxy)carbonyl]-3-pyrrolidinylmethanesulfonic acid | 600 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CS(=O)(=O)O | C13H17NO5S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | benzyl 3-(chlorosulfonylmethyl)-1-pyrrolidinecarboxylate | 560 mg | ClS(=O)(=O)CC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C13H16ClNO4S
